US09126969B2
0.5 mL of trifluoroacetic acid is added to a solution of 60 mg of N-[3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]piperidine-1-carboxamide in solution in 1 mL of dichloromethane. The reaction medium is stirred at 22° C. for 16 hours. The reaction medium is concentrated under vacuum in a rotary evaporator. After evaporation, the reaction crude is purified by flash chromatography. The elution is carried out with pure dichloromethane and then with a mixture of dichloromethane containing 5% of ammoniacal methanol. 29 mg of N-{3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide are obtained in the form of a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.42 to 2.27 (m, 8H); 2.90 (s, 3H); from 3.18 to 3.65 (m, 12H); 7.20 (d, J=7.0 Hz, 1H); 7.56 (d, J=12.0 Hz, 1H); 8.00 (s, 1H). ES mass spectrum: m/z=439 (M−H)—base peak.

reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]piperidine-1-carboxamide | 60 mg | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C=C1N1CCN(CCC1)C | C27H37FN8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-{3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide | 29 mg | FC1=CC2=C(NC(=N2)C2=NNC=C2NC(=O)N2CCCCC2)C=C1N1CCN(CCC1)C | C22H29FN8O
